US07384945B2
8 g of 4-(2,5-difluoro-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (23 mmol) and 3.82 g potassium carbonate (27.65 mmol) were suspended in 80 ml DMF under stirring and then treated dropwise within 10 min with a solution of 5.29 g of 4-trifluoromethoxy-benzylamine (27.65 mmol) in 30 ml DMF. The reaction mixture was then stirred for 48 h at rt, diluted with 500 ml dichloromethane and 1 liter of water. After separation, the organic phase was washed with brine (500 ml). The two aqueous phases were then reextracted with 2×250 ml dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered and concentrated in vacuo. The solid residue was stirred with 150 ml heptane/ethylacetate 4:1. After 10 minutes the suspension was diluted with 100 ml heptane, and after additional 10 min stirring, filtered. After drying in vacuo, 9.5 g of 4-[2-fluoro-4-nitro-5-(4-trifluoromethoxy-benzylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester was obtained as a yellow solid (80%). MS(ISP): 515.3 (M+H)+.

reactant | 4-(2,5-difluoro-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 23 mmol, 8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C15H19F2N3O4
reactant | potassium carbonate | 27.65 mmol, 3.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethoxy-benzylamine | 27.65 mmol, 5.29 g | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | water | 1 liter | O | H2O
product | 4-[2-fluoro-4-nitro-5-(4-trifluoromethoxy-benzylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 9.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C(=C1)NCC1=CC=C(C=C1)OC(F)(F)F)[N+](=O)[O-])F | C23H26F4N4O5
